US06930104B2
1-(3,4-Dimethoxybenzoyl)-2-methyl-4-(6-methyl-1,2,3,4-tetrahydroquinolin-1-yl)-1,2,3,4-tetrahydroquinoline
Starting with cis-1-(3,4-dimethoxybenzoyl)-2-methyl-1,2,3,4-tetrahydro-4-quinolinol (500 mg, 1.53 mmol) prepared in Reference Example 1 and 6-methyl-1,2,3,4-tetrahydroquinoline (676 mg, 4.59 mmol), the same procedure as shown in Example 1 was repeated to give the titled compound (117 mg, yield: 18%) as a white crystal. (cis:trans=1.6:1)

reactant | cis-1-(3,4-dimethoxybenzoyl)-2-methyl-1,2,3,4-tetrahydro-4-quinolinol | 1.53 mmol, 500 mg | COC=1C=C(C(=O)N2[C@H](C[C@H](C3=CC=CC=C23)O)C)C=CC1OC | C19H21NO4
reactant | 6-methyl-1,2,3,4-tetrahydroquinoline | 4.59 mmol, 676 mg | CC=1C=C2CCCNC2=CC1 | C10H13N
product | 1-(3,4-Dimethoxybenzoyl)-2-methyl-4-(6-methyl-1,2,3,4-tetrahydroquinolin-1-yl)-1,2,3,4-tetrahydroquinoline | 117 mg, yield: 18% | COC=1C=C(C(=O)N2C(CC(C3=CC=CC=C23)N2CCCC3=CC(=CC=C23)C)C)C=CC1OC | C29H32N2O3
